US07795236B2
1-Bromo-3-pentyloxybenzene
To a solution of 3-bromophenol (0.500 g) in N,N-dimethylformamide (5.8 mL) was added potassium carbonate (1.20 g). Then 1-bromopentane (0.896 mL) was added, and the resulting mixture was stirred at room temperature for 18.5 hours. The reaction mixture was partitioned between diethyl ether (35 mL) and water (10 mL). The organic-layer was washed successively with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (9.728 g).

reactant | 3-bromophenol | 0.500 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopentane | 0.896 mL | BrCCCCC | C5H11Br
solvent | N,N-dimethylformamide | 5.8 mL | CN(C=O)C | C3H7NO
product | 1-Bromo-3-pentyloxybenzene | 9.728 g | BrC1=CC(=CC=C1)OCCCCC | C11H15BrO
